US05668147
Reference Example 7 wherein Z is the same as the above. a) Trans-1-benzyloxycarbonyl-4-trifluoromethylpyrrolidine-3-carboxylic acid
In 92 ml of ethanol, is dissolved 15.8 g (45.8 mmol) of trans-1-benzyloxycarbonyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester. To the above solution, is added 46 ml of 2N sodium hydroxide on cooling with ice. The mixture is stirred at 0° C. for 1 hour and then concentrated under reduced pressure. The residue is dissolved in 100 ml of water. The solution is washed with diethyl ether. The water phase is adjusted to pH 3 with citric acid. The solution is extracted twice with dichloromethane. The organic phases were put together and dried over anhydrous magnesium sulfate. The dried organic phase was concentrated under reduced pressure to give 13.84 g of the objective substance as a colorless powder (yield 95.3%).

reactant | trans-1-benzyloxycarbonyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester | 45.8 mmol, 15.8 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C16H18F3NO4
reactant | sodium hydroxide | 2N, 46 ml | [OH-].[Na+]
solvent | ethanol | 92 ml | C(C)O | C2H6O
product | Trans-1-benzyloxycarbonyl-4-trifluoromethylpyrrolidine-3-carboxylic acid | yield 95.3% | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C(F)(F)F)C(=O)O | C14H14F3NO4
